US06114334
A mixture of 1-(1,4-benzodioxan-5-yl)piperazine (0.8 g; prepared in a similar manner to that described in Example 2), 37-40% aqueous formaldehyde solution (0.27 ml) and industrial methylated spirit (10 ml) was stirred at ambient temperature under nitrogen for 18 hours, then a solution of 3,5-diamino-1-phenylpyrazole (0.63 g) in industrial methylated spirit (8 ml) was added dropwise. The mixture was stirred at ambient temperature for 2.5 hours, then the solvent was removed in vacuo, and the residue was purified by flash chromatography over silica using an approximately 9:1 mixture of dichloromethane and methanol as eluant. Appropriate fractions were combined and the solvents removed in vacuo to leave 3,5-diamino-4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-1-phenylpyrazole as a pale pink solid (0.38 g), m.p. 84-87° C.

reactant | 1-(1,4-benzodioxan-5-yl)piperazine | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
reactant | formaldehyde | 0.27 ml | C=O | CH2O
reactant | 3,5-diamino-1-phenylpyrazole | 0.63 g | NC1=NN(C(=C1)N)C1=CC=CC=C1 | C9H10N4
product | 3,5-diamino-4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-1-phenylpyrazole | 0.38 g | NC1=NN(C(=C1CN1CCN(CC1)C1=CC=CC=2OCCOC21)N)C2=CC=CC=C2 | C22H26N6O2
